** sch_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/chronosense_core.sch
**.subckt chronosense_core pad vref out vss vdd
*.iopin pad
*.ipin vref
*.opin out
*.iopin vss
*.iopin vdd
x1 vdd pad vref vss vg ota
x3 vdd sch schb vss inv
x4 vdd schb out vss inv
XXMRST ctn sch vss vss sg13_lv_nmos w=10u l=0.35u ng=1 m=1 mm_ok=1
XXMPASS pad vg vdd vdd sg13_lv_pmos w=5u l=1u ng=1 m=20 mm_ok=1
XXMMIR ctn vg vdd vdd sg13_lv_pmos w=5u l=1u ng=1 m=30 mm_ok=1
XCc vg vss cap_cmim w=18.25u l=18.25u m=4 mm_ok=1
XCT ctn vss cap_cmim w=25u l=25u m=16 mm_ok=1
x2 vdd sch ctn vss schmitt
**.ends

* expanding   symbol:  ota.sym # of pins=5
** sym_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/ota.sym
** sch_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/ota.sch
.subckt ota vdd vin vip vss vout
*.opin vout
*.ipin vin
*.ipin vip
*.iopin vdd
*.iopin vss
XM1 vx vin vtail vss sg13_lv_nmos w=5u l=0.5u ng=1 m=4 mm_ok=1
XM3 vx vx vdd vdd sg13_lv_pmos w=5u l=1u ng=1 m=2 mm_ok=1
XM2 vout vip vtail vss sg13_lv_nmos w=5u l=0.5u ng=1 m=4 mm_ok=1
XM6 vb vb vss vss sg13_lv_nmos w=5u l=1u ng=1 m=2 mm_ok=1
XM5 vtail vb vss vss sg13_lv_nmos w=5u l=1u ng=1 m=2 mm_ok=1
XM4 vout vx vdd vdd sg13_lv_pmos w=5u l=1u ng=1 m=2 mm_ok=1
XR2 vdd vb sub! rppd w=1u l=115.79u m=1 b=0 mm_ok=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/inv.sym
** sch_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/inv.sch
.subckt inv vdd in out vss
*.ipin in
*.opin out
*.iopin vdd
*.iopin vss
XM1 out in vdd vdd sg13_lv_pmos w=2u l=0.35u ng=1 m=1 mm_ok=1
XM2 out in vss vss sg13_lv_nmos w=1u l=0.35u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  schmitt.sym # of pins=4
** sym_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/schmitt.sym
** sch_path: /foss/designs/Hei_Chips/ChronoSense-1/macros/heichips26_chronosense/schematic/xschem/schmitt.sch
.subckt schmitt vdd out in vss
*.ipin in
*.iopin vdd
*.iopin vss
*.opin out
XM1 x in vss vss sg13_lv_nmos w=3u l=0.35u ng=1 m=1 mm_ok=1
XM2 y in vdd vdd sg13_lv_pmos w=6u l=0.35u ng=1 m=1 mm_ok=1
XM3 net1 in x vss sg13_lv_nmos w=3u l=0.35u ng=1 m=1 mm_ok=1
XM4 x net1 vdd vss sg13_lv_nmos w=3u l=0.35u ng=1 m=1 mm_ok=1
XM5 net1 in y vdd sg13_lv_pmos w=6u l=0.35u ng=1 m=1 mm_ok=1
XM6 y net1 vss vdd sg13_lv_pmos w=6u l=0.35u ng=1 m=1 mm_ok=1
x1 vdd net1 out vss inv
.ends

.end
